US06921821B2
(4-Chlorophenyl) (2,2,2-trifluoroethyl) amine
N-(4-Chlorophenyl)-trifluoroacetamide (2.22 g, 10 mmol) was dissolved in THF (100 mL) and treated with powdered lithium aluminum hydride (0.57 g, 15 mmol) under argon. The mixture was heated with stirring to reflux for 12 hours at which point both TLC and LC/MS analysis indicated the reaction was complete. The suspension was cooled in an ice bath prior to quenching with saturated aqueous sodium sulfate solution. The solution was dried with excess sodium sulfate and concentrated under reduced pressure to give 1.84 g of a viscous oil which was used without further purification. 1H NMR (300 MHz, CDCl3) δ ppm 3.70 (2H, dt, J=8.96, 15.81 Hz), 3.91 (1H, br s), 6.58 (2H, m), 7.13 (2H, m).

reactant | N-(4-Chlorophenyl)-trifluoroacetamide | 10 mmol, 2.22 g | ClC1=CC=C(C=C1)NC(C(F)(F)F)=O | C8H5ClF3NO
reactant | lithium aluminum hydride | 15 mmol, 0.57 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (4-Chlorophenyl) (2,2,2-trifluoroethyl) amine | 1.84 g | ClC1=CC=C(C=C1)NCC(F)(F)F | C8H7ClF3N
